US09126993B2
2-(1-aza-bicyclo[2.2.2]oct-3-yl)-N-[1-(3-isopropyl-phenyl)-cyclopropyl]-acetamide
Using general procedure I, 1-(3-isopropyl-phenyl)-cyclopropylamine (278 mg, 1.58 mmol) and (1-aza-bicyclo[2.2.2]oct-3-yl)-acetic acid (267 mg, 1.58 mmol) gave the title compound as a white solid (70 mg, 14%). 1H NMR (400 MHz, CD3OD) δ 7.16 (t, J=8.0 Hz, 1H), 7.07 (s, 1H), 6.97 (dd, J=19.2, 7.6 Hz, 2H), 3.16-3.23 (m, 1H), 2.79-2.97 (m, 5H), 2.51-2.58 (m, 1H), 2.23-2.41 (m, 3H), 1.83-1.92 (m, 1H), 1.68-1.81 (m, 3H), 1.54-1.62 (m, 1H), 1.15-1.25 (m, 10H) ppm. 13C NMR (400 MHz, CD3OD) δ 173.6, 148.5, 142.4, 127.8, 123.6, 123.1, 122.0, 73.0, 53.1, 46.6, 45.9, 39.3, 34.1, 32.3, 28.1, 26.4, 24.4, 19.7, 16.8 ppm. Purity: 96.9% HPLCMS (210 nm); retention time 2.55 min; (M+1) 327.

reactant | 1-(3-isopropyl-phenyl)-cyclopropylamine | 1.58 mmol, 278 mg | C(C)(C)C=1C=C(C=CC1)C1(CC1)N | C12H17N
reactant | (1-aza-bicyclo[2.2.2]oct-3-yl)-acetic acid | 1.58 mmol, 267 mg | N12CC(C(CC1)CC2)CC(=O)O | C9H15NO2
product | 2-(1-aza-bicyclo[2.2.2]oct-3-yl)-N-[1-(3-isopropyl-phenyl)-cyclopropyl]-acetamide | 70 mg, 14% | N12CC(C(CC1)CC2)CC(=O)NC2(CC2)C2=CC(=CC=C2)C(C)C | C21H30N2O
